US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(quinoxaline-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.040 g, 0.071 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added. The reaction was stirred at room temperature for 1 hour and concentrated to dryness to give the crude product, which was purified by reverse phase HPLC (0-50% ACN in water, Gilson system). The purified product was then dissolved in DCM (with minimal MeOH to aid solubility) and added dropwise to a stirring solution of 1M HCl in ether. The resulting solid was filtered, dried and collected to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)quinoxaline-2-carboxamide hydrochloride (0.007 g, 18% yield). LCMS (APCI+) m/z 466, 468 (M)+ (Method 2).

reactant | (R)-tert-Butyl 1-(5-bromo-3-(quinoxaline-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.071 mmol, 0.040 g | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC1=CC=CC=C1N=C2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C26H28BrN7O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)quinoxaline-2-carboxamide hydrochloride | 0.007 g, 18% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C2=NC1=CC=CC=C1N=C2 | InChI=1S/C21H20BrN7O.ClH/c22-13-8-25-20-18(19(13)29-7-3-4-12(23)11-29)16(9-26-20)28-21(30)17-10-24-14-5-1-2-6-15(14)27-17;/h1-2,5-6,8-10,12H,3-4,7,11,23H2,(H,25,26)(H,28,30);1H/t12-;/m1./s1
